US06518257B1
(i) Production of 1-(4′-fluoro[1,1′-biphenyl]-3-yl)-1-(1-trityl-1H-imidazol-4-yl)-1-ethanol
To a solution of 3-bromo-4′-fluoro-1,1′-biphenyl (1.50 g) in THF (20 ml) was added dropwise a solution (1.6 M; 3.73 ml) of n-butyllithium in hexane at −78° C., and the mixture was stirred for 20 min. A solution of 1-(1-trityl-1H-imidazol-4-yl)-1-ethanone (1.91 g) in THF (25 ml) was added dropwise at −78° C., and the mixture was stirred at −78° C. for 1 h, at −35 to −10° C. for 1 h and at 0° C. for 1 h. Saturated aqueous ammonium chloride solution was added to the reaction mixture and the mixture was extracted with ethyl acetate, washed with saturated brine and dried. The solvent was evaporated under reduced pressure and the residue was purified by column chomatography (eluent, hexane:ethyl acetate=3:1→1:1) and recrystallized from ethyl acetate-hexane to give the title compound (1.57 g) as colorless prism crystals.

reactant | 3-bromo-4′-fluoro-1,1′-biphenyl | 1.50 g | BrC=1C=C(C=CC1)C1=CC=C(C=C1)F | C12H8BrF
reactant | n-butyllithium | 1.6 M, 3.73 ml | C(CCC)[Li]
reactant | 1-(1-trityl-1H-imidazol-4-yl)-1-ethanone | 1.91 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)C(C)=O | C24H20N2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 1-(4′-fluoro[1,1′-biphenyl]-3-yl)-1-(1-trityl-1H-imidazol-4-yl)-1-ethanol | 1.57 g | FC1=CC=C(C=C1)C1=CC(=CC=C1)C(C)(O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C36H29FN2O
